US07612067B2
Preparation of 2-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-5-(6-methyl-pyridin-2-yl)-thiophene-3-carbonitrile
To a flask containing 5-bromo-2-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiophene-3-carbonitrile (0.25 g, 0.62 mmol) and PdCl2(dppf) (0.024 g, 0.033 mmol) is added a solution of 0.5 M 6-methyl-2-pyridylzinc bromide in THF (2.50 mL, 1.24 mmol). The solution is heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (2×30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-25% EtOAc/hexane gradient), furnish the title compound (0.11 g, 0.26 mmol, 39%). 1H NMR (CDCl3) δ 0.87 (t, J=7.5 Hz, 6H), 1.76-1.92 (m, 4H), 2.57 (s, 3H), 2.58 (s, 3H), 2.65 (s, 3H), 3.26-3.35 (m, 1H), 6.75 (s, 1H), 7.09 (d, J=7.5 Hz, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.63 (dd, J=7.9, 7.5 Hz, 1H), 7.74 (s, 1H). LC/MS (m/z): calcd. for C24H25N5S (M+H)+: 416.6; found: 416.2.

reactant | 5-bromo-2-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-thiophene-3-carbonitrile | 0.62 mmol, 0.25 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C#N | C18H19BrN4S
reactant | 6-methyl-2-pyridylzinc bromide | 0.5 M | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 1.24 mmol, 2.50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.033 mmol, 0.024 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-5-(6-methyl-pyridin-2-yl)-thiophene-3-carbonitrile | 0.26 mmol, 0.11 g, 39% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C#N)C2=NC(=CC=C2)C | C24H25N5S
